US09328110B2
The alcohol from Step 1, 6-(3-nitro-quinolin-4-ylamino)hexan-1-ol (10.0 g, 34.6 mmol), was oxidized by the general method described in Step 6 of Example 1 with DMSO (4.05 g, 51.8 mmol), oxalyl chloride (4.83 g, 38.0 mmol), and triethylamine (10.5 g, 104 mmol) to provide 6-(3-nitroquinolin-4-ylamino)hexanal (9.9 g) as a bright yellow solid that was used directly in the next step without further purification.

reactant | 6-(3-nitro-quinolin-4-ylamino)hexan-1-ol | 34.6 mmol, 10.0 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCCCO | C15H19N3O3
reactant | DMSO | 51.8 mmol, 4.05 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 38.0 mmol, 4.83 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 104 mmol, 10.5 g | C(C)N(CC)CC | C6H15N
product | 6-(3-nitroquinolin-4-ylamino)hexanal | 9.9 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCCC=O | C15H17N3O3
